US08124606B2
Compound 63B: (S)-methyl 2-(ethylamino)propanoate:
(S)-methyl 2-(tert-butoxycarbonyl(ethyl)amino)propanoate (4.40 g, 19.0 mmol) was dissolved in dichloromethane and treated with TFA (10 mL). The reaction mixture was stirred for 2 h at room temperature and concentrated in vacuo. The residue was diluted with brine and NaOH (aq. 50%) was added dropwise until pH=12.5. This was extracted with EtOAc (3×30 mL). The combined organic extracts were dried (MgSO4), flitered and concentrated in vacuo to afford the title compound as an opaque liquid (1.85 g, 74%). [M+H] calc'd for C6H13NO2, 132; found, 132.

reactant | (S)-methyl 2-(tert-butoxycarbonyl(ethyl)amino)propanoate | 19.0 mmol, 4.40 g | C(C)(C)(C)OC(=O)N([C@H](C(=O)OC)C)CC | C11H21NO4
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (S)-methyl 2-(ethylamino)propanoate | C(C)N[C@H](C(=O)OC)C | C6H13NO2
